US07799762B2
To a solution of acetic anhydride (85 μ1, 0.90 mmol.) in acetonitrile (1 ml), there is added a solution of commercially available H-D-Asp(OBn)-OH (Senn Chemicals, CH-Dielsdorf) (200 mg, 0.90 mmol.) in a CH3CN.H2O/Et3N (3.5/1.0/0.4 ml) mixture. The reaction mixture is stirred for 18 hours at room temperature. The organic solvent is evaporated and the remaining aqueous phase is cooled down to 0° C., acidified with a 10% aqueous solution of citric acid till pH=3 and extracted with EtOAc (2×). The organic layers are pooled and dried over MgSO4, filtered and evaporated. The -benzyl ester of N-acetyl-D-aspartic acid obtained as a white cristalline solid (192 mg, 81%) is used in the next step with no further purification. (Rf=0.45 in 20/1 CH2Cl2/MeOH containing 2% of acetic acid, phosphomolybdinium compound and U.V. color development agent).

reactant | acetic anhydride | 0.90 mmol | C(C)(=O)OC(C)=O | C4H6O3
reactant | H-D-Asp(OBn)-OH | 0.90 mmol, 200 mg | N[C@H](CC(OCC1=CC=CC=C1)=O)C(=O)O | C11H13NO4
reactant | CH3CN.H2O Et3N | 0.4 ml | CC#N.O.CCN(CC)CC
solvent | acetonitrile | 1 ml | C(C)#N | C2H3N
product | N-acetyl-D-aspartic acid | C(C)(=O)N[C@H](CC(=O)O)C(=O)O | C6H9NO5
